US07888364B2
N-(4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide (˜0.5 mmol) was used in Procedure A with 5-trifluoromethyl-2-bromopyridine (113 mg, 0.5 mmol). Purified by silica gel chromatography (5-50% ethyl acetate/hexanes) to yield N-(4-chloro-3-(5-(trifluoromethyl)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide as a white foam: TLC Rf=0.30 (15% ethyl acetate/hexanes); MS (Q1) 460 (M)+.

reactant | N-(4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | ˜0.5 mmol | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)B1OC(C(O1)(C)C)(C)C | C20H21BClF3N2O3
reactant | 5-trifluoromethyl-2-bromopyridine | 0.5 mmol, 113 mg | FC(C=1C=CC(=NC1)Br)(F)F | C6H3BrF3N
product | N-(4-chloro-3-(5-(trifluoromethyl)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=C(N=C(C=C1)C(F)(F)F)C)=O)C1=NC=C(C=C1)C(F)(F)F | C20H12ClF6N3O
